US08895313B2
2-(4-Amino-3-trifluoromethylphenyl)-6-methoxybenzothiazole
Prepared as described in the Nitro Reduction section using 2-(4-nitro-3-trifluoromethyl phenyl)-6-methoxybenzothiazole (1.0 g, 2.82 mmol) and tin (II) dichloride dihydrate (5.1 g, 22.6 mmol) in EtOH (50 ml) to give the title compound (0.84 g, 91%) as a pale orange solid after work-up and flash chromatography (2:1 Hexane/EtOAc).

reactant | 2-(4-nitro-3-trifluoromethyl phenyl)-6-methoxybenzothiazole | 2.82 mmol, 1.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)C(F)(F)F | C15H9F3N2O3S
reactant | tin (II) dichloride dihydrate | 22.6 mmol, 5.1 g | O.O.[Sn](Cl)Cl
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-(4-Amino-3-trifluoromethylphenyl)-6-methoxybenzothiazole | 0.84 g, 91% | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)C(F)(F)F | C15H11F3N2OS
